US06492401B1
A solution of methyl 5-(N,N-dimethylcarbamoyl)-2-phenyl-2H-1,2,3-triazole-4-carboxylate (0.195 g, 0.71 mmol) in THF (3.6 mL) at 23° C. was treated with LiOH (1 M aq., 3.6 mL, 3.6 mmol). The resulting suspension was stirred for 15 min at 23° C. and partitioned between ether and water. The aqueous layer was acidified to pH 1 with HCl (conc.). The resulting white solid was collected by filtration, washed with water, and air-dried to provide 0.164 g (89%) of 5-(N,N-dimethylcarbamoyl)-2-phenyl-2H-1,2,3-triazole-4-carboxylic acid.

reactant | methyl 5-(N,N-dimethylcarbamoyl)-2-phenyl-2H-1,2,3-triazole-4-carboxylate | 0.71 mmol, 0.195 g | CN(C(=O)C=1C(=NN(N1)C1=CC=CC=C1)C(=O)OC)C | C13H14N4O3
reactant | LiOH | 3.6 mmol, 1 M, 3.6 mL | [Li+].[OH-]
solvent | THF | 3.6 mL | C1CCOC1 | C4H8O
product | 5-(N,N-dimethylcarbamoyl)-2-phenyl-2H-1,2,3-triazole-4-carboxylic acid | 0.164 g, 89% | CN(C(=O)C=1C(=NN(N1)C1=CC=CC=C1)C(=O)O)C | C12H12N4O3
